US06689882B2
Preparation of 4-(4-morpholinyl) Benzonitrile:
A mixture of morpholine (3 g, 34 mmol) and the freshly prepared 4-[(trifluoromethyl)sulfonyl] benzonitrile (1.2 g, 5.1 mmol, Ref.: A. M. Echavarren and J. K. Stille, J. Am. Chem. Soc. 1987, 109, 5478-5486.), is heated at 120° C. The conversion of the 4-[(trifluoromethyl)sulfonyl]benzonitrile is complete after 20 hours. Water (10 ml) is than added into the reaction mixture. The precipitate is filtered off, washed with water and dried under vacuum (30° C.). Recrystallisation (50% aqueous ethanol) of the dried crude product gives 0.5 g of the title-compound. Yield: 52%, m.p. 82-83° C.; MS 188 (100, M+); H1 NMR (CDCl3): δ 7.46 (dd, 2H), 6.81 (dd, 2H), 3.79 (t, 4H), 3.22 (t, 4H); C13 NMR (CDCl3): δ 153.69, 133.71, 120.07, 114.26, 101.16, 66.65, 47.49.

reactant | morpholine | 34 mmol, 3 g | N1CCOCC1 | C4H9NO
reactant | 4-[(trifluoromethyl)sulfonyl] benzonitrile | FC(S(=O)(=O)C1=CC=C(C#N)C=C1)(F)F | C8H4F3NO2S
solvent | Water | 10 ml | O | H2O
product | 4-(4-morpholinyl) Benzonitrile | 0.5 g, Yield: 52% | N1(CCOCC1)C1=CC=C(C#N)C=C1 | C11H12N2O
